US06762330B2
A mixture of 34.4 g (0.25 moles) of PCl3 in 400 mL of hexane was treated with Cy2NH (90.7 g, 0.50 moles) dropwise at ° C. for 30 min. The resulting white slurry was warmed to room temperature and stirred for 1 h, refluxed overnight before removal of Cy2NH—HCl by filtration. The white solids were washed with hexane (2×100 mL). The combined filtrates were concentrated to give the crude Cy2N—PCl2 (54.0 g, 77% yield). 31P NMR (121 MHz, CD2Cl2): δ171.3 (s) ppm.

reactant | PCl3 | 0.25 moles, 34.4 g | P(Cl)(Cl)Cl | Cl3P
reactant | Cy2NH | 0.50 moles, 90.7 g | N(C1CCCCC1)C1CCCCC1 | C12H23N
reactant | Cy2NH—HCl | N(C1CCCCC1)C1CCCCC1.Cl
solvent | hexane | 400 mL | CCCCCC | C6H14
product | Cy2N—PCl2 | 54.0 g, 77% yield | N(C1CCCCC1)(C1CCCCC1)P(Cl)Cl | C12H22Cl2NP
